US07915200B2
1. Preparation of 4,5-Dichloro-2-fluorophenylamine
Tin (II) chloride dehydrate (27.0 g, 119.6 mmol) was dissolved in ethanol and 1,2-dichloro-4-fluoro-5-nitrobenzene (5.0 g, 23.8 mmol) was added dropwise. Temperature rose to near reflux during the addition and was complete upon cooling. The reaction mixture was carefully added to saturated aqueous sodium bicarbonate and then extracted with ethyl acetate. The organic phase was washed several more times with water, dried, filtered and concentrated to give the title compound as a yellow solid: 1H NMR (CDCl3): δ 7.17 (d, 1H), 6.84 (d, 1H), 3.78 (br s, 2H).

reactant | Tin (II) chloride | 119.6 mmol, 27.0 g | [Sn](Cl)Cl
reactant | 1,2-dichloro-4-fluoro-5-nitrobenzene | 23.8 mmol, 5.0 g | ClC1=C(C=C(C(=C1)[N+](=O)[O-])F)Cl | C6H2Cl2FNO2
reactant | sodium bicarbonate | C([O-])(O)=O.[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 4,5-Dichloro-2-fluorophenylamine | ClC1=CC(=C(C=C1Cl)N)F | C6H4Cl2FN
